US08648103B2
(a) [3-(4-Benzyloxyphenyl)-4-methylisoxazol-5-yl]methanol
4-Benzyloxybenzaldehyde (5.0 g, 23.6 mmol) was dissolved in a mixture of ethanol (40 mL) and THF (10 mL), and sodium bicarbonate (2.4 g, 28.3 mmol) was then added to the solution. While stirring the mixture at room temperature, an aqueous solution (25 mL) of hydroxylamine hydrochloride (1.86 g, 25.9 mmol) was added thereto. The obtained mixture was stirred for 1.5 hours. The reaction solution was concentrated under reduced pressure, and water was then added to the residue, followed by extraction three times with ethyl acetate. The organic layer was washed with a saturated saline, and it was then dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was dissolved in dimethylformamide (40 mL), and N-chlorosuccinimide (3.15 g, 23.6 mmol) was then added to the solution. The obtained mixture was stirred at room temperature overnight. Thereafter, water was added to the reaction solution, and it was then extracted with ethyl acetate three times. The organic layer was washed with a saturated saline, and it was then dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The residue was purified with a fractionation purification apparatus (Biotage, ethyl acetate:hexane=2:98-3:7). The obtained compound (3.0 g, 11.5 mmol) was dissolved in dichloroethane (30 mL), and 2-butyn-1-ol (2.6 mL, 34.4 mmol) and triethylamine (1.9 mL, 13.8 mmol) were then added to the solution. The obtained mixture was stirred at 90° C. for 4 hours. Thereafter, the reaction solution was concentrated under reduced pressure, and the residue was then purified with a fractionation purification apparatus (Biotage, ethyl acetate:hexane=1:4-4:1), so as to obtain the title compound (0.88 g, 26%) in the form of an isometric mixture.

reactant | 4-Benzyloxybenzaldehyde | 23.6 mmol, 5.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | sodium bicarbonate | 28.3 mmol, 2.4 g | C([O-])(O)=O.[Na+]
reactant | hydroxylamine hydrochloride | 25.9 mmol, 25 mL, 1.86 g | Cl.NO
reactant | N-chlorosuccinimide | 23.6 mmol, 3.15 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 2-butyn-1-ol | 34.4 mmol, 2.6 mL | C(C#CC)O | C4H6O
reactant | triethylamine | 13.8 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | [3-(4-Benzyloxyphenyl)-4-methylisoxazol-5-yl]methanol | 0.88 g, 26% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=NOC(=C1C)CO | C18H17NO3
